US05334576
Preparation of 6-methyl-5-(N-methylacetamido)-pyridine-2,3-dicarboxylic acid, diethyl ester
A stirred mixture of 2.94 g of 5-acetamido-6-methylpyridine-2,3-dicarboxylic acid, diethyl ester, and 0.44 g of 60% sodium hydride in 200 mL dry tetrahydrofuran is kept at room temperature for 1 hour, then 0.93 mL of methyl iodide is added, and the reaction is stirred for an additional 4 hours. The reaction is concentrated in vacuo, and the residue is slurried in water, the pH is adjusted to 3 with hydrochloric acid, and the mixture is extracted with methylenechloride. The organic phase is dried, concentrated in vacuo to afford the desired product as an oil.

reactant | 5-acetamido-6-methylpyridine-2,3-dicarboxylic acid, diethyl ester | 2.94 g | C(C)(=O)NC=1C=C(C(=NC1C)C(=O)OCC)C(=O)OCC | C14H18N2O5
reactant | sodium hydride | 0.44 g | [H-].[Na+]
reactant | methyl iodide | 0.93 mL | CI | CH3I
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 6-methyl-5-(N-methylacetamido)-pyridine-2,3-dicarboxylic acid, diethyl ester | CC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)N(C(C)=O)C | C15H20N2O5
